US07728025B2
(Step 5) Production of 5-(1-acetyl-3-methylpyrrolidin-2-yl)-6-(4-(methanesulfonyl)phenoxy)-2-pyridin-2-yl-1H-benzimidazole
The entitled compound was obtained as a white solid in the same method as in Example 338 (step 5) or in accordance with the method or by combining it with an ordinary method but using N-(4-(1-acetyl-3-methylpyrrolidin-2-yl)-5-fluoro-2-nitrophenyl)pyridine-2-carboxamide and 4-(methanesulfonyl)phenol.

reactant | N-(4-(1-acetyl-3-methylpyrrolidin-2-yl)-5-fluoro-2-nitrophenyl)pyridine-2-carboxamide | C(C)(=O)N1C(C(CC1)C)C1=CC(=C(C=C1F)NC(=O)C1=NC=CC=C1)[N+](=O)[O-] | C19H19FN4O4
reactant | 4-(methanesulfonyl)phenol | CS(=O)(=O)C1=CC=C(C=C1)O | C7H8O3S
product | 5-(1-acetyl-3-methylpyrrolidin-2-yl)-6-(4-(methanesulfonyl)phenoxy)-2-pyridin-2-yl-1H-benzimidazole | C(C)(=O)N1C(C(CC1)C)C1=CC2=C(NC(=N2)C2=NC=CC=C2)C=C1OC1=CC=C(C=C1)S(=O)(=O)C | C26H26N4O4S
